US20010053785A1
(2R)-2-[4′-(2-Benzyl-benzofuran-3-yl)-biphenyl-4-yloxy]-3-phenyl-propionic acid
The title compound was prepared from 4′-(2-benzyl-benzofuran-3-yl)-biphenyl-4-ol, and (S)-(−)-3-phenyllactic acid methyl ester, in substantially the same manner, as described in Example 1, steps g-h, and was obtained as a white solid, mp 167-169° C.; MS m/e 524 (M+);

reactant | 4′-(2-benzyl-benzofuran-3-yl)-biphenyl-4-ol | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C=C1)C1=CC=C(C=C1)O)C=CC=C2 | C27H20O2
reactant | (S)-(−)-3-phenyllactic acid methyl ester | COC([C@@H](O)CC1=CC=CC=C1)=O | C10H12O3
product | (2R)-2-[4′-(2-Benzyl-benzofuran-3-yl)-biphenyl-4-yloxy]-3-phenyl-propionic acid | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C=C1)C1=CC=C(C=C1)O[C@@H](C(=O)O)CC1=CC=CC=C1)C=CC=C2 | C36H28O4
